US06683211B1
N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-formamide (34 g, 0.14 mol) and triethylamine (34 g, 0.34 mol) are dissolved in dichloromethane (120 ml). Bis(trichloromethyl)carbonate (triphosgene, 16 g, 55 mmol) in dichloromethane (80 ml) is added at +5° C. The mixture is stirred for 4 hours at +5° C. and then cooled to −78° C. A solution of titanium tetrachloride (28 g, 0.15 mol) in dichloromethane (150 ml) is added and the mixture is stirred for 2 hours at −40° C. 4-Chlorobenzaldehyde (20 g, 0.14 mol) in dichloromethane (70 ml) is added dropwise and the mixture is stirred for 17 h at room temperature. The mixture is hydrolyzed with 5N HCl (80 ml), stirred 30 minutes at room temperature and washed with water. After evaporation of the organic layer the residue is submitted to flash-chromatography (ethyl acetate/hexane) to give 2-(4-chloro-phenyl)-2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide. 1H-NMR (300 MHz, CDCl3): 2.54 (t, 1H, C≡CH), 2.72 (t, 2H, CH2CH2), 3.53 (t, 2H, CH2CH2), 3.84 (s, 3H, OCH3), 4.78 (m, 2H, OCH2), 4.98 (s, 1H, CHOH), 6.07 (bs, 1H, NH), 6.53-7.38 (m, 7H, CH arom.).

reactant | N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-formamide | 0.14 mol, 34 g | COC=1C=C(C=CC1OCC#C)CCNC=O | C13H15NO3
reactant | triethylamine | 0.34 mol, 34 g | C(C)N(CC)CC | C6H15N
reactant | Bis(trichloromethyl)carbonate | 55 mmol, 16 g | ClC(Cl)(Cl)OC(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 4-Chlorobenzaldehyde | 0.14 mol, 20 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | HCl | 5N, 80 ml | Cl | ClH
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 0.15 mol, 28 g | [Ti](Cl)(Cl)(Cl)Cl
product | 2-(4-chloro-phenyl)-2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide | ClC1=CC=C(C=C1)C(C(=O)NCCC1=CC(=C(C=C1)OCC#C)OC)O | C20H20ClNO4
